US07560569B2
In a similar manner to Example 4, (2S,4S)-1-[[N-benzyloxycarbonyl-N-[4-(benzotriazole-1-yl)oxycarbonylbicyclo[2.2.2]oct-1-yl]amino]acetyl]-4-fluoropyrrolidine-2-carbonitrile (50.0 mg) and 2.0 M tetrahydrofuran solution of dimethylamine (65.0 μL) were used to obtain (2S,4S)-1-[[N-benzyloxycarbonyl-N-[4-(dimethylamino)carbonylbicyclo[2.2.2]oct-1-yl]amino]acetyl]-4-fluoropyrrolidine-2-carbonitrile (36.2 mg).

reactant | (2S,4S)-1-[[N-benzyloxycarbonyl-N-[4-(benzotriazole-1-yl)oxycarbonylbicyclo[2.2.2]oct-1-yl]amino]acetyl]-4-fluoropyrrolidine-2-carbonitrile | 50.0 mg | C(C1=CC=CC=C1)OC(=O)N(C12CCC(CC1)(CC2)C(=O)ON2N=NC1=C2C=CC=C1)CC(=O)N1[C@@H](C[C@@H](C1)F)C#N | C30H31FN6O5
reactant | dimethylamine | 65.0 μL | CNC | C2H7N
solvent | tetrahydrofuran | 2.0 M | O1CCCC1 | C4H8O
product | (2S,4S)-1-[[N-benzyloxycarbonyl-N-[4-(dimethylamino)carbonylbicyclo[2.2.2]oct-1-yl]amino]acetyl]-4-fluoropyrrolidine-2-carbonitrile | 36.2 mg | C(C1=CC=CC=C1)OC(=O)N(C12CCC(CC1)(CC2)C(=O)N(C)C)CC(=O)N2[C@@H](C[C@@H](C2)F)C#N | C26H33FN4O4
